### PR TITLE
[Merged by Bors] - feat: first return of a Dyck word

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Second part of #9781. This also includes a `PartialOrder` instance on Dyck words directly reflecting the tree bijection, that in turn allows a `positivity` extension for `firstReturn`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 1]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
 
 end Semilength
 
+section FirstReturn
+
+/-- `p.firstReturn` is 0 if `p = 0` and the index of the `D` matching the initial `U` otherwise. -/
+def firstReturn : ℕ :=
+  (range p.toList.length).findIdx (fun i ↦
+    (p.toList.take (i + 1)).count U = (p.toList.take (i + 1)).count D)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:205]:
```suggestion
  (range p.toList.length).findIdx fun i ↦
    (p.toList.take (i + 1)).count U = (p.toList.take (i + 1)).count D
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 2]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+
+@[simp] lemma firstReturn_zero : firstReturn 0 = 0 := rfl
+
+lemma firstReturn_pos (h : p.toList ≠ []) : 0 < p.firstReturn := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:209]:
```suggestion
lemma firstReturn_pos (h : p ≠ 0) : 0 < p.firstReturn := by
```
right? And everywhere else

Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:209]: Once you have applied the other comment, this lemma will be in a form that positivity understands. Could you write the corresponding positivity extension? Feel free to cargo-cult an existing one

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 3]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+lemma firstReturn_lt_length (h : p.toList ≠ []) : p.firstReturn < p.toList.length := by
+  have lp := length_pos_of_ne_nil h
+  rw [← length_range p.toList.length]
+  apply findIdx_lt_length_of_exists
+  simp only [mem_range, decide_eq_true_eq]
+  use p.toList.length - 1
+  exact ⟨by omega, by rw [Nat.sub_add_cancel lp, take_of_length_le (le_refl _),
+    p.count_U_eq_count_D]⟩
+
+lemma count_eq_count_of_take_firstReturn_add_one (h : p.toList ≠ []) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:226]: `take_firstReturn_add_one` is not an assumption, so this is a bad lemma name. What about this instead?
```suggestion
lemma count_take_firstReturn_add_one (h : p.toList ≠ []) :
```
The full name would be something like
```suggestion
lemma count_take_firstReturn_add_one_U_eq_count_take_firstReturn_add_one_D (h : p.toList ≠ []) :
```
but that's too long to be memorable

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 4]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+        beq_iff_eq, ite_false, take_append_eq_append_take,
+        show j - p.toList.length = 0 by omega, take_zero, append_nil]
+      have := p.count_D_le_count_U j
+      omega
+  · simp_rw [length_range, u, length_append, length_cons]
+    exact Nat.lt_add_one _
+
+/-- The right part of the Dyck word decomposition. -/
+def rightPart (h : p.toList ≠ []) : DyckWord :=
+  p.drop (p.firstReturn + 1) (p.count_eq_count_of_take_firstReturn_add_one h)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:274]: Can you just return `0` if `p = 0`? In fact, do you think there is a reasonable choice of junk value for `DyckWord.drop` when the subword isn't balanced?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 5]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+      simp only [take, length_take, lt_min_iff] at ub ⊢
+      replace ub := ub.1
+      rw [take_take, min_eq_left ub.le]
+      rw [show i = i - 1 + 1 by omega] at ub ⊢
+      rw [Nat.add_lt_add_iff_right] at ub
+      exact p.count_lt_count_of_lt_firstReturn _ ub)
+
+@[simp]
+theorem leftPart_nest_add_rightPart (h : p.toList ≠ []) :
+    (p.leftPart h).nest + p.rightPart h = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:289]: WHy is `leftPart` denested but not `rightPart`? I find this confusing

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 6]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+  rw [DyckWord.ext_iff, leftPart, denest_nest]
+  apply take_append_drop
+
+lemma leftPart_length_lt (h : p.toList ≠ []) : (p.leftPart h).toList.length < p.toList.length := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:293]:
```suggestion
lemma length_leftPart_lt (h : p.toList ≠ []) : (p.leftPart h).toList.length < p.toList.length := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 7]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+  nth_rw 2 [← p.leftPart_nest_add_rightPart h]
+  change _ < (U :: (p.leftPart h).toList ++ [D] ++ (p.rightPart h).toList).length
+  simp_rw [length_append, length_singleton, length_cons]; omega
+
+theorem leftPart_semilength_lt (h : p.toList ≠ []) : (p.leftPart h).semilength < p.semilength := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:298]:
```suggestion
theorem semilength_leftPart_lt (h : p.toList ≠ []) : (p.leftPart h).semilength < p.semilength := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 8]
```diff
@@ -196,4 +197,139 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+  change _ < (U :: (p.leftPart h).toList ++ [D] ++ (p.rightPart h).toList).length
+  simp_rw [length_append, length_singleton, length_cons]; omega
+
+theorem rightPart_semilength_lt (h : p.toList ≠ []) :
+    (p.rightPart h).semilength < p.semilength := by
+  rw [← Nat.mul_lt_mul_left zero_lt_two]
+  simp_rw [two_mul_semilength_eq_length]
+  exact p.rightPart_length_lt h
+
+lemma nest_add_ne_empty : (p.nest + q).toList ≠ [] := by change U :: _ ++ _ ≠ []; simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:315]: This belongs earlier, to the `nest` API

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:289]: This is the exact unambiguous inductive construction of Dyck words (see the last part of #9781).

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:209]: In order to write such an extension I need a partial order on Dyck words. There appears to be no suitable such partial order.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:289]: I mean I understand this, but naming them `leftPart` and `rightPart` is misleading in that the reader might expect them to be exactly analogous while there is actually a difference between the two. Can you find better, less, symmetrical, names?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 9]
```diff
@@ -78,46 +78,52 @@ instance : AddMonoid DyckWord where
 
 namespace DyckWord
 
-variable (p q : DyckWord)
+variable {p q : DyckWord}
 
 lemma toList_eq_nil : p.toList = [] ↔ p = 0 := by rw [DyckWord.ext_iff]; rfl
+lemma toList_ne_nil : p.toList ≠ [] ↔ p ≠ 0 := by rw [not_iff_not, toList_eq_nil]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:84]:
```suggestion
lemma toList_ne_nil : p.toList ≠ [] ↔ p ≠ 0 := toList_eq_nil.ne
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 10]
```diff
@@ -78,46 +78,52 @@ instance : AddMonoid DyckWord where
...
-  nth_rw 2 [← p.toList.dropLast_append_getLast h, ← p.toList.dropLast.take_append_drop 1]
-  rw [p.getLast_eq_D, drop_one, this, p.head_eq_U]
+  nth_rw 2 [← p.toList.dropLast_append_getLast h', ← p.toList.dropLast.take_append_drop 1]
+  rw [getLast_eq_D h, drop_one, this, head_eq_U h]
   rfl
 
+variable (p) in
 /-- Prefix of a Dyck word as a Dyck word, given that the count of `U`s and `D`s in it are equal. -/
-def take (i : ℕ) (hi : (p.toList.take i).count U = (p.toList.take i).count D) : DyckWord where
+def take {i : ℕ} (hi : (p.toList.take i).count U = (p.toList.take i).count D) : DyckWord where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:118]: It's a bad idea to make `i` implicit here.
1. It's much easier to provide the proof of `(p.toList.take i).count U = (p.toList.take i).count D` if you know what `i` is
2. You don't want the user seeing `p.take ...` in the infoview (since proofs are ellipsed) and having to click through to find out what `i` is

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:118]: Yeah, I eventually deemed that as a mistake. This will be reverted in the next commit.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 4 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: I've done the first modification, but I answer no to the second question; in order to preserve `p.take i + p.drop i = p` for all Dyck words and have both summands also Dyck words, if `p` is of the form `q` then one of `p.take i` and `p.drop i` must be empty and the other must be the whole word, and there is no preference for either choice.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: I should have answered all your queries.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 11]
```diff
@@ -77,43 +78,49 @@ instance : AddMonoid DyckWord where
...
+variable {p q : DyckWord}
 
 lemma toList_eq_nil : p.toList = [] ↔ p = 0 := by rw [DyckWord.ext_iff]; rfl
+lemma toList_ne_nil : p.toList ≠ [] ↔ p ≠ 0 := toList_eq_nil.ne
+
+variable (h : p ≠ 0)
 
 /-- The first element of a nonempty Dyck word is `U`. -/
-lemma head_eq_U (h : p.toList ≠ []) : p.toList.head h = U := by
+lemma head_eq_U : p.toList.head (toList_ne_nil.mpr h) = U := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:89]: Having `h : p ≠ 0` instead of `h : p.toList ≠ []` means that you will need to provide the hypothesis when rewriting. In those cases where an hypothesis appears in the LHS, we pretend it's not an argument to the lemma and make other arguments explicit in consequence. Here this gives
```suggestion
lemma head_eq_U (p : DyckWord) (h) : p.toList.head h = U := by
```
Note that the `(h)` is an extra sign that Lean can infer `h` from the LHS

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 12]
```diff
@@ -77,43 +78,49 @@ instance : AddMonoid DyckWord where
...
   rcases p with - | s; · tauto
   rw [head_cons]
   by_contra f
   rename_i _ nonneg
   simpa [s.dichotomy.resolve_left f] using nonneg 1
 
 /-- The last element of a nonempty Dyck word is `D`. -/
-lemma getLast_eq_D (h : p.toList ≠ []) : p.toList.getLast h = D := by
+lemma getLast_eq_D : p.toList.getLast (toList_ne_nil.mpr h) = D := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:97]: Same here

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 13]
```diff
@@ -142,17 +150,21 @@ def nest : DyckWord where
     rw [add_comm]
     exact add_le_add (zero_le _) ((count_le_length _ _).trans (by simp))
 
+lemma nest_add_ne_empty : (p.nest + q) ≠ 0 := by rw [← toList_ne_nil]; change U :: _ ++ _ ≠ []; simp
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:153]: Can you have a simp lemma of the form `p + q = 0 ↔ p = 0 ∧ q = 0` and a non-simp lemma of the form `p + q ≠ 0 ↔ p ≠ 0 ∨ q ≠ 0`? Then you wouldn't need `nest_add_ne_empty`
```suggestion
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 14]
```diff
@@ -196,4 +209,143 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+  exact ⟨by omega, by rw [Nat.sub_add_cancel lp, take_of_length_le (le_refl _),
+    p.count_U_eq_count_D]⟩
+
+include h in
+lemma count_take_firstReturn_add_one :
+    (p.toList.take (p.firstReturn + 1)).count U = (p.toList.take (p.firstReturn + 1)).count D := by
+  have := findIdx_get (w := (length_range p.toList.length).symm ▸ firstReturn_lt_length h)
+  simpa using this
+
+lemma count_lt_count_of_lt_firstReturn {i : ℕ} (hi : i < p.firstReturn) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:248]:
```suggestion
lemma count_D_lt_count_U_of_lt_firstReturn {i : ℕ} (hi : i < p.firstReturn) :
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 15]
```diff
@@ -196,4 +209,143 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+      simp_rw [cons_append, take_cons, count_cons, beq_self_eq_true, ite_true,
+        beq_iff_eq, ite_false, take_append_eq_append_take,
+        show j - p.toList.length = 0 by omega, take_zero, append_nil]
+      have := p.count_D_le_count_U j
+      omega
+  · simp_rw [length_range, u, length_append, length_cons]
+    exact Nat.lt_add_one _
+
+lemma nest_add_firstReturn : (p.nest + q).firstReturn = p.toList.length + 1 := by
+  rw [firstReturn_add, firstReturn_nest, ite_eq_right_iff, ← toList_eq_nil]; intro; contradiction
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:288]:
```suggestion
lemma firstReturn_nest_add : (p.nest + q).firstReturn = p.toList.length + 1 := by simp
```
also aybe we don't need that lemma at all as it's basically `firstReturn_add` + `firstReturn_nest`? Can you make sure simp proves it?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 16]
```diff
@@ -196,4 +209,143 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+      simp only [take, length_take, lt_min_iff] at ub ⊢
+      replace ub := ub.1
+      rw [take_take, min_eq_left ub.le]
+      rw [show i = i - 1 + 1 by omega] at ub ⊢
+      rw [Nat.add_lt_add_iff_right] at ub
+      exact count_lt_count_of_lt_firstReturn ub)
+
+variable (p) in
+/-- The right part of the Dyck word decomposition,
+outside the `U,D` pair that `firstReturn` refers to. `outsidePart 0 = 0`. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:307]:
```suggestion
outside the `U, D` pair that `firstReturn` refers to. `outsidePart 0 = 0`. -/
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 17]
```diff
@@ -196,4 +209,143 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+def outsidePart : DyckWord :=
+  if h : p = 0 then 0 else p.drop (p.firstReturn + 1) (count_take_firstReturn_add_one h)
+
+@[simp] lemma insidePart_zero : insidePart 0 = 0 := by simp [insidePart]
+@[simp] lemma outsidePart_zero : outsidePart 0 = 0 := by simp [outsidePart]
+
+include h in
+@[simp]
+theorem insidePart_nest_add_outsidePart : p.insidePart.nest + p.outsidePart = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:316]:
```suggestion
theorem nest_insidePart_add_outsidePart : p.insidePart.nest + p.outsidePart = p := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 18]
```diff
@@ -196,4 +209,143 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+include h in
+theorem semilength_insidePart_lt : p.insidePart.semilength < p.semilength := by
+  rw [← Nat.mul_lt_mul_left zero_lt_two]
+  simp_rw [two_mul_semilength_eq_length]
+  nth_rw 2 [← insidePart_nest_add_outsidePart h]
+  change _ < (U :: p.insidePart.toList ++ [D] ++ p.outsidePart.toList).length
+  simp_rw [length_append, length_singleton, length_cons]; omega
+
+include h in
+theorem semilength_outsidePart_lt : p.outsidePart.semilength < p.semilength := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:329]: Can you deduce both lemmas from `p.insidePart.semilength + p.outsidePart.semilength + 1 = p.semilength`, which you itself can deduce from `p.insidePart.length + p.outsidePart.length + 2 = p.length`?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:288]: Okay, maybe you want this lemma because `p.nest + q` is a common idiom, but please make sure simp works

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 18 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:329]: All done.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 19]
```diff
@@ -77,43 +78,56 @@ instance : AddMonoid DyckWord where
...
 
-variable (p q : DyckWord)
+variable {p q : DyckWord}
 
 lemma toList_eq_nil : p.toList = [] ↔ p = 0 := by rw [DyckWord.ext_iff]; rfl
+lemma toList_ne_nil : p.toList ≠ [] ↔ p ≠ 0 := toList_eq_nil.ne
+
+@[simp]
+lemma add_eq_zero_iff : p + q = 0 ↔ p = 0 ∧ q = 0 := by
+  simp_rw [← toList_eq_nil]; apply append_eq_nil
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:88]: Actually can you prove `Subsingleton (AddUnits DyckWord)`? Then this lemma is just `add_eq_zero`

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 20]
```diff
@@ -77,43 +78,56 @@ instance : AddMonoid DyckWord where
...
+
+lemma add_ne_zero_iff : p + q ≠ 0 ↔ p ≠ 0 ∨ q ≠ 0 := by
+  rw [not_iff_comm, add_eq_zero_iff]; tauto
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:91]: Can you generalise this lemma to be just after `add_eq_zero`?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 21]
```diff
@@ -77,43 +78,56 @@ instance : AddMonoid DyckWord where
...
+  have : p.toList.dropLast.take 1 = [p.toList.head h'] := by
     rcases p with - | ⟨s, ⟨- | ⟨t, r⟩⟩⟩
     · tauto
     · rename_i bal _
       cases s <;> simp at bal
     · tauto
-  nth_rw 2 [← p.toList.dropLast_append_getLast h, ← p.toList.dropLast.take_append_drop 1]
-  rw [p.getLast_eq_D, drop_one, this, p.head_eq_U]
+  nth_rw 2 [← p.toList.dropLast_append_getLast h', ← p.toList.dropLast.take_append_drop 1]
+  rw [p.getLast_eq_D h, drop_one, this, p.head_eq_U h]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:120]:
```suggestion
  rw [p.getLast_eq_D, drop_one, this, p.head_eq_U]
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 19 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:88]: `add_eq_zero` requires `AddCommMonoid`, and Dyck word addition is not commutative.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 20 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:91]: See my reply to your previous comment.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:88]: I'm sure `add_eq_zero` can be generalise to `AddMonoid`. Can you do that?

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 21 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:120]: That doesn't work; the `p ≠ 0` hypotheses are then left as side goals.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:120]: That's because you haven't removed the `toList_ne_nil.mpr` in the statement of `getLast_eq_D`

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 19 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:88]: That, unfortunately, **cannot be done** – at least left-cancellativity is required (which Dyck words do satisfy). [This MSE answer](https://math.stackexchange.com/a/4535529/357390) gives a counterexample to `add_ne_zero` on arbitrary monoids as the free one on two generators with `ab=1`.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:88]: Mind writing the cancellative version then?

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: All done (including your comment below on `head_eq_U`/`getLast_eq_D`).

File: Mathlib/Algebra/Group/Units.lean
[the remark this answers is not in the document]
Comment (Parcly-Taxel) [reply Mathlib/Algebra/Group/Units.lean:1]: #15921

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 22]
```diff
@@ -196,4 +221,142 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+variable (p) in
+/-- `p.firstReturn` is 0 if `p = 0` and the index of the `D` matching the initial `U` otherwise. -/
+def firstReturn : ℕ :=
+  (range p.toList.length).findIdx fun i ↦
+    (p.toList.take (i + 1)).count U = (p.toList.take (i + 1)).count D
+
+@[simp] lemma firstReturn_zero : firstReturn 0 = 0 := rfl
+
+include h in
+lemma firstReturn_pos : 0 < p.firstReturn := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:235]: Either write the corresponding `positivity` extension or
```suggestion
-- TODO: `positivity` extension
include h in
lemma firstReturn_pos : 0 < p.firstReturn := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 23]
```diff
@@ -196,4 +221,142 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+theorem semilength_insidePart_lt : p.insidePart.semilength < p.semilength := by
+  have := semilength_insidePart_add_semilength_outsidePart_add_one h
+  omega
+
+include h in
+theorem semilength_outsidePart_lt : p.outsidePart.semilength < p.semilength := by
+  have := semilength_insidePart_add_semilength_outsidePart_add_one h
+  omega
+
+theorem nest_add_insidePart_eq : (p.nest + q).insidePart = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:347]:
```suggestion
theorem insidePart_nest_add : (p.nest + q).insidePart = p := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 24]
```diff
@@ -196,4 +221,142 @@ lemma two_mul_semilength_eq_length : 2 * p.semilength = p.toList.length := by
...
+  have : p.toList.length + 1 + 1 = p.nest.toList.length := by simp [nest]
+  simp_rw [insidePart, firstReturn_nest_add, take,
+    show (p.nest + q).toList = p.nest.toList ++ q.toList by rfl, take_append_eq_append_take,
+    this, take_length, tsub_self, take_zero, append_nil, denest, nest, dropLast_concat]
+  rfl
+
+theorem nest_add_outsidePart_eq : (p.nest + q).outsidePart = q := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:354]:
```suggestion
theorem outsidePart_nest_add : (p.nest + q).outsidePart = q := by
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean (hunk 22 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean:243]: All done.

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 25]
```diff
@@ -360,3 +368,24 @@ theorem nest_add_outsidePart_eq : (p.nest + q).outsidePart = q := by
...
 end DyckWord
+
+namespace Mathlib.Meta.Positivity
+
+open Lean Meta Qq
+
+/-- Extension for the `positivity` tactic:
+`p.firstReturn` is nonnegative, and is positive if `p` is nonzero. -/
+@[positivity DyckWord.firstReturn _]
+def evalFirstReturn : PositivityExt where eval {u α} _zα _pα e := do
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean:432]:
```suggestion
def evalDyckWordFirstReturn : PositivityExt where eval {u α} _zα _pα e := do
```

File: Mathlib/Combinatorics/Enumerative/DyckWord.lean [hunk 26]
```diff
@@ -79,6 +79,14 @@ instance : AddCancelMonoid DyckWord where
   add_left_cancel p q r h := by rw [DyckWord.ext_iff] at *; exact append_cancel_left h
   add_right_cancel p q r h := by rw [DyckWord.ext_iff] at *; exact append_cancel_right h
 
+/-- We define a partial order on Dyck words by writing `p ≤ q` if `p` is a suffix of `q`. -/
+instance : PartialOrder DyckWord where
+  le p q := p.toList <:+ q.toList
+  le_refl p := suffix_rfl
+  le_trans p q r := IsSuffix.trans
+  le_antisymm p q pq qp :=
+    DyckWord.ext_iff.mpr <| eq_of_suffix_of_length_eq pq <| pq.length_le.antisymm qp.length_le
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/DyckWord.lean]: Can you provide lemmas like ` p.toList <:+ q.toList ↔ p < q`, `0 < p ↔ p ≠ 0`, ...? I suspect it might have to be a separate PR

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: I've probably added – and changed – enough in this PR; we can merge this in its current state and leave the extra ordering lemmas to the next and last PR in my plans, #9781 itself where I will add the tree bijection/relation to Catalan numbers.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/DyckWord.lean]: Sure

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by bryangingechen** [comment]
bors r+

Just in case...
bors d+
